US04051252
Analogously to Example 1, 0.1 mol of 3-amino-5trifluoromethyl-indazole in 50 ml of pyrocarbonic acid dimethyl ester gives 3-amino-5-trifluoromethylindazole-indazole-2-carboxylic acid methyl ester (melting point: 164°-165° C; 64% of theory) in 2 hours at 50° C.

reactant | 3-amino-5-trifluoromethylindazole indazole-2-carboxylic acid methyl ester | NC1=NNC2=CC=C(C=C12)C(F)(F)F.COC(=O)N1N=C2C=CC=CC2=C1
solvent | pyrocarbonic acid dimethyl ester | 50 ml | COC(=O)OC(=O)OC | C4H6O5
product | 3-amino-5trifluoromethyl-indazole | 0.1 mol | NC1=NNC2=CC=C(C=C12)C(F)(F)F | C8H6F3N3
